US07449223B2
With the exception of replacing the 4-phenylphenol from the synthesis example 1 with 4-(4-propylcyclohexyl)phenol, 15 g of a monoacrylate containing a group (h): 1-propyl-4-(4-(6-acryloyloxyhexyloxy)phenyl)trans-cyclohexane was obtained in the same manner as the synthesis example 1. Hereafter this monoacrylate is abbreviated as (A-6).

reactant | 4-phenylphenol | C1(=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O
reactant | 4-(4-propylcyclohexyl)phenol | C(CC)C1CCC(CC1)C1=CC=C(C=C1)O | C15H22O
product | 1-propyl-4-(4-(6-acryloyloxyhexyloxy)phenyl)trans-cyclohexane | C(CC)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)OCCCCCCOC(C=C)=O | C24H36O3
